US08471005B2
[7-(2-Fluoro-pyridin-3-yl)-pyrrolo[2,1-f][1,2,4]triazin-2-yl]-[4-(4-methyl-piperazin-1-yl)-phenyl]-amine was prepared from (7-bromo-pyrrolo[2,1-f][1,2,4]triazin-2-yl)-[4-(4-methyl-piperazin-1-yl)-phenyl]-amine and 2-fluoro-3-pyridineboronic acid in an analogous manner to Example 1031b. Product isolated as a yellow solid (78 mg, 68%). m.p.=201-203° C.; LCMS (m/e) 404 (M+H); 1H-NMR (CDCl3, 400 MHz) δ 8.95-8.87 (m, 1H), 8.74 (s, 1H), 8.23-8.17 (m, 1H), 7.47 (d, 2H, J=7.7 Hz), 7.34-7.27 (m, 1H), 7.19-7.12 (m, 1H), 6.92 (d, 2H, J=8.0 Hz), 6.85 (d, 1H, J=4.7 Hz), 6.68 (s, 1H), 3.23-3.15 (m, 4H), 2.64-2.56 (m, 4H), 2.37 (s, 3H).

reactant | (7-bromo-pyrrolo[2,1-f][1,2,4]triazin-2-yl)-[4-(4-methyl-piperazin-1-yl)-phenyl]-amine | BrC1=CC=C2C=NC(=NN21)NC2=CC=C(C=C2)N2CCN(CC2)C | C17H19BrN6
reactant | 2-fluoro-3-pyridineboronic acid | FC1=NC=CC=C1B(O)O | C5H5BFNO2
product | [7-(2-Fluoro-pyridin-3-yl)-pyrrolo[2,1-f][1,2,4]triazin-2-yl]-[4-(4-methyl-piperazin-1-yl)-phenyl]-amine | FC1=NC=CC=C1C1=CC=C2C=NC(=NN21)NC2=CC=C(C=C2)N2CCN(CC2)C | C22H22FN7
